US08703953B2
To a stirred solution of tert-butyl 2-((diphenylmethylene)amino)acetate (1 g, 3.39 mmol) in THF (20 ml) cooled to −78° C. under nitrogen atmosphere was added LDA, 2M in THF/heptane/ethylbenzene (2.54 ml, 5.08 mmol) dropwise for 30 mins. To this mixture was then added 3,3,3-trifluoropropyl trifluoromethanesulfonate (1.083 g, 4.40 mmol). The reaction was gradually warmed to rt and stirred for 4 h. The reaction mixture was quenched by addition of saturated aqueous ammonium chloride at 0° C. The reaction mixture was then extracted with ethyl acetate (3×10 mL). The combined organic extracts were washed with water and brine, dried over sodium sulfate and then concentrated under reduced pressure. The crude product was purified by silica gel column chromatography using 2% ethyl acetate in hexane to afford tert-butyl 2-((diphenylmethylene)amino)-5,5,5-trifluoropentanoate (800 mg, 2.02 mmol, 60% yield) as a yellow oil. LCMS (ESI) m/e 391.9 [(M+H)+, calcd for C22H24F3NO2, 392.2]; LC/MS retention time (method E): tR=2.49 min.

reactant | tert-butyl 2-((diphenylmethylene)amino)acetate | 3.39 mmol, 1 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NCC(=O)OC(C)(C)C | C19H21NO2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | THF heptane ethylbenzene | 5.08 mmol, 2.54 ml | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | 3,3,3-trifluoropropyl trifluoromethanesulfonate | 4.40 mmol, 1.083 g | FC(S(=O)(=O)OCCC(F)(F)F)(F)F | C4H4F6O3S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-butyl 2-((diphenylmethylene)amino)-5,5,5-trifluoropentanoate | 2.02 mmol, 800 mg, 60% yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OC(C)(C)C)CCC(F)(F)F | C22H24F3NO2
